US07550469B2
4b. 1-(6-Fluoro-benzo[b]thiophen-3-yl)-[1,4]diazepane
Heat a solution of 3-amino-6-fluoro-benzo[b]thiophene-2-carboxylic acid (5.0 g, 24 mmol) in 1-methyl-2-pyrrolidinone (5 ml) to 100° C. for 2 h., and then, introduce a stream of nitrogen, to cool the solution to room temperature. Add homopiperazine (9.5 g, 95 mmol) and p-toluene sulfonic acid monohydrate (9.0 g, 47 mmol) and heat the mixture to 145° C. for 4 h. After that time, cool the reaction mixture to room temperature, dilute with ethyl acetate (30 mL) and wash with brine (3×15 mL). Separate the organic layer and dry over MgSO4. Evaporate the solvent and purify the crude product by column chromatography (SiO2, 100 g CH2Cl2/MeOH 9:2, then

reactant | 3-amino-6-fluoro-benzo[b]thiophene-2-carboxylic acid | 24 mmol, 5.0 g | NC=1C2=C(SC1C(=O)O)C=C(C=C2)F | C9H6FNO2S
reactant | homopiperazine | 95 mmol, 9.5 g | N1CCNCCC1 | C5H12N2
reactant | p-toluene sulfonic acid monohydrate | 47 mmol, 9.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1-methyl-2-pyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(6-Fluoro-benzo[b]thiophen-3-yl)-[1,4]diazepane | FC=1C=CC2=C(SC=C2N2CCNCCC2)C1 | C13H15FN2S
